US06258812B1
7-Acetamino-1-(3.4-dichloroanilino)-4-(4-pyridylmethyl)phthalazine hydrochloride
The preparation is carried out in the manner described under Example 25, starting from 7-acetamino-1-chioro-4-(4-pyridylmethyl)phthalazine and 3,4-dichloroaniline.

reactant | 7-acetamino-1-chioro-4-(4-pyridylmethyl)phthalazine | N(C(=O)C)C1=CC=C2C(=NN=C(C2=C1)Cl)CC1=CC=NC=C1 | C16H13ClN4O
reactant | 3,4-dichloroaniline | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
product | 7-Acetamino-1-(3.4-dichloroanilino)-4-(4-pyridylmethyl)phthalazine hydrochloride | Cl.N(C(=O)C)C1=CC=C2C(=NN=C(C2=C1)NC1=CC(=C(C=C1)Cl)Cl)CC1=CC=NC=C1 | InChI=1S/C22H17Cl2N5O.ClH/c1-13(30)26-15-2-4-17-18(11-15)22(27-16-3-5-19(23)20(24)12-16)29-28-21(17)10-14-6-8-25-9-7-14;/h2-9,11-12H,10H2,1H3,(H,26,30)(H,27,29);1H
